US05317016
To a suspension of (2S,4R)-4-hydroxy-2-methoxycarbonylpyrrolidine hydrochloride (12.71 g: 70 mmole) in dichloromethane (70 ml), triethylamine (10.7 ml: 77 mmole) is added dropwise under ice cooling in a nitrogen atmosphere. The mixture is stirred for 5 min. at room temperature. A solution of di-t-butyl dicarbonate (19.10 g: 87.5 mmole) in dichloromethane (72 ml) is added dropwise thereto, and the mixture is stirred for 45 minutes at room temperature to give (2S,4R)-1-t-butoxycarbonyl-4-hydroxy-2-methoxycarbonylpyrrolidine (14.06 g). Yield: 82%. Colorless oil. NMR δ(CDCl3) ppm: 1.44(d, J=9.6 Hz, 9H), 1.9 to 2.4(m, 3H), 3.4 to 3.7(m, 2H), 3.74 (s, 3H), 4.3 to 4.6(m, 2H).

reactant | (2S,4R)-4-hydroxy-2-methoxycarbonylpyrrolidine hydrochloride | 70 mmole, 12.71 g | Cl.O[C@@H]1C[C@H](NC1)C(=O)OC
reactant | triethylamine | 77 mmole, 10.7 ml | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 87.5 mmole, 19.10 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 72 ml | ClCCl | CH2Cl2
product | (2S,4R)-1-t-butoxycarbonyl-4-hydroxy-2-methoxycarbonylpyrrolidine | 14.06 g, Yield: 82% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O)C(=O)OC | C11H19NO5
